US05672620
7-tert-Butyl-2,3-dihydro-N,N-dimethyl-3,3-dimethylbenzofuran-5-carboximidamide hydrochloride
To a solution of 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran (500 mg, 1.8 mmol) in Et2O (0.6 mL), and hexanes (5.5 mL) at -78° C. is added t-BuLi (1.5M in hexanes, 2.9 eq, 5.3 mmol, 3.3 mL) at such a rate that the reaction temperature does not exceed -60° C. This solution is stirred for 1 h and then slowly cannulated into a -78° C. solution of dimethylcyanamide (1.0 eq, 1.8 mmol, 0.15 mL) in Et2O (5 mL). The reaction is kept at -78° C. for 0.5 h and then is allowed to warm to 0° C. After 1.5 h, TLC (10% MeOH in CHCl3) indicates the reaction to be complete. The reaction is quenched with H2O (10 mL) and 1N HCl (10 mL) and then extracted with Et2O (2×10 mL). The aqueous layer is brought to pH 9 with 1N NaOH and extracted with Et2O (3×15 mL), which is dried (MgSO4) and evaporated to a yellow oil (410 mg). This oil is purified by preparative TLC (15% MeOH in CHCl3) to give a yellow oil, which is stirred in EtOH (5 mL) and 1N HCl (10 mL) for 5 min. The EtOH is evaporated and the resulting solution extracted with CH2Cl2 (3×10 mL). The dried organic layers are evaporated to a yellow oil, which is triturated with Et2O to give the title compound as a white powder (110 mg, 19.7%), mp>160° C. (dec).

reactant | 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran | 1.8 mmol, 500 mg | BrC=1C=C(C2=C(C(CO2)(C)C)C1)C(C)(C)C | C14H19BrO
reactant | t-BuLi | 5.3 mmol, 1.5M, 3.3 mL, 2.9 eq | [Li]C(C)(C)C
reactant | dimethylcyanamide | 1.8 mmol, 0.15 mL, 1.0 eq | CN(C#N)C | C3H6N2
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | Et2O | 0.6 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | MeOH | CO | CH4O
product | 7-tert-Butyl-2,3-dihydro-N,N-dimethyl-3,3-dimethylbenzofuran-5-carboximidamide hydrochloride | 110 mg, 19.7% | Cl.C(C)(C)(C)C1=CC(=CC=2C(COC21)(C)C)C(N(C)C)=N | InChI=1S/C17H26N2O.ClH/c1-16(2,3)12-8-11(15(18)19(6)7)9-13-14(12)20-10-17(13,4)5;/h8-9,18H,10H2,1-7H3;1H
